US05382600
g) 4-(2-Methoxyphenyl)6-methyl-3,4-dihydrocoumarin (CIV)
A mixture of 2-methoxycinnamic acid (178 g, 1.0 mol), p-cresol (108 g, 1.0 mol), and p-touenesulphonic acid monohydrate (47.5 g, 0.25 mol) was stirred on a boiling water-bath for about 2 h during which time the system was evacuated with a waterpump to remove formed water. The solid was then broken up and washed copiously with water. The granular material was then stirred with a large volume of saturated NaHCO3 solution containing some 10% acetone. The product was filtered off, washed dried and recrystallised from acetone affording 167 g (62,5%) white crystals of the desired lactone, m.p. 140°.

reactant | 2-methoxycinnamic acid | 1.0 mol, 178 g | COC1=C(C=CC(=O)O)C=CC=C1 | C10H10O3
reactant | p-cresol | 1.0 mol, 108 g | C1=CC(=CC=C1O)C | C7H8O
product | 4-(2-Methoxyphenyl)6-methyl-3,4-dihydrocoumarin | COC1=C(C=CC=C1)C1CC(OC2=CC=C(C=C12)C)=O | C17H16O3
